US08067445B2
Step 3: (2′-{[Ethyl-(5-methyl-benzooxazol-2-yl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
(2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (0.300 g, 0.76 mmol), chloro-5-methyl-benzooxazole (0.135 g, 0.81 mmol), and diisopropylethylamine (0.5 mL, 2.87 mmol) were combined in EtOH (2 mL) in a sealed tube, and the reaction was stirred at 80° C. for 8 hours. The mixture was concentrated, and the residue was purified by silica gel chromatography to give the title compound.

reactant | (2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 0.76 mmol, 0.300 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H24F3NO3
reactant | chloro-5-methyl-benzooxazole | 0.81 mmol, 0.135 g | ClC=1OC2=C(N1)C=C(C=C2)C | C8H6ClNO
reactant | diisopropylethylamine | 2.87 mmol, 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOH | 2 mL | CCO | C2H6O
product | (2′-{[Ethyl-(5-methyl-benzooxazol-2-yl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C=1OC2=C(N1)C=C(C=C2)C)CC)=O | C29H29F3N2O4
